US04093657
A solution of about 60 grams of N,N-bis(3-hydroxypropyl)methylamine in 110 ml of chloroform is saturated, with cooling and stirring, with anhydrous hydrogen chloride gas. To the resulting two-phase liquid mixture is added, over a period of about 30 minutes at a temperature of 0-5° C., approximately 66 ml of thionyl chloride. The homogeneous solution thus obtained is allowed to stand at room temperature for a period of about 15 hours, the solution is then heated at reflux temperature for an additional two-hour period, and the chloroform is evaporated in vacuo from the light brown-colored reaction solution. The residual material is washed with ethanol, and is then crystallized from a mixture of 200 ml ethanol: 800 ml ether. The white crystalline product thus obtained is recovered by filtration, washed with three portions of ether, then with hexane, and dried in vacuo at 25° C. to give about 80 grams of N,N-bis(3-chloropropyl) methylamine hydrochloride; m.p. 86-88° C.

reactant | N,N-bis(3-hydroxypropyl)methylamine | about 60 grams | OCCCN(CCCO)C | C7H17NO2
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | approximately 66 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 110 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-bis(3-chloropropyl) methylamine hydrochloride | about 80 grams | Cl.ClCCCN(CCCCl)C | InChI=1S/C7H15Cl2N.ClH/c1-10(6-2-4-8)7-3-5-9;/h2-7H2,1H3;1H
